US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-chloro-6-amino-1-benzothiophene-2-carboxamide dihydrochloride
83 mg (0.23 mmol) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-3-chloro-6-nitro-1-benzothiophene-2-carboxamide hydrochloride are dissolved in 1.5 ml of 2M tin(II) chloride solution in DMF and stirred at RT for 14 h. The reaction mixture is purified by preparative HPLC. The product fractions are concentrated, dissolved in a mixture of methanol and 4M HCl in dioxane, then again concentrated and dried under high vacuum. 53 mg (57.2% of theory) of the title compound are obtained.

reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-3-chloro-6-nitro-1-benzothiophene-2-carboxamide hydrochloride | 0.23 mmol, 83 mg | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2Cl)C=CC(=C1)[N+](=O)[O-]
solvent | tin(II) chloride | 2M, 1.5 ml | [Sn](Cl)Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-3-chloro-6-amino-1-benzothiophene-2-carboxamide dihydrochloride | Cl.Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2Cl)C=CC(=C1)N | InChI=1S/C16H18ClN3OS.2ClH/c17-14-11-2-1-10(18)7-13(11)22-15(14)16(21)19-12-8-20-5-3-9(12)4-6-20;;/h1-2,7,9,12H,3-6,8,18H2,(H,19,21);2*1H/t12-;;/m0../s1
